US08669271B2
4-[5-(1-Methyl-6-oxo-1,6-dihydro-pyridin-3-yl)-2,3-dihydro-furo[2,3-c]pyridin-2-yl]-piperidine-1-carboxylic acid tert-butyl ester
The title compound is prepared from 4-(5-chloro-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester and 1-methyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyridin-2-one following a procedure analogous to that described in Example 28. LC (method 10): tR=1.59 min; Mass spectrum (ESI+): m/z=412 [M+H]+.

reactant | 4-(5-chloro-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1CC=2C(=CN=C(C2)Cl)O1 | C17H23ClN2O3
reactant | 1-methyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyridin-2-one | CN1C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)=O | C12H18BNO3
product | 4-[5-(1-Methyl-6-oxo-1,6-dihydro-pyridin-3-yl)-2,3-dihydro-furo[2,3-c]pyridin-2-yl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1CC=2C(=CN=C(C2)C2=CN(C(C=C2)=O)C)O1 | C23H29N3O4
